US03975384
6-Ethoxy-5-nitro-4-(1-oxido-thiomorpholino)-2-piperazino-pyrimidine
3.6 gm (0.01 mol) of 6-ethoxy-5-nitro-2-piperazino-4-thiomorpholino-pyrimidine were dissolved in 100 ml of methanol, a solution of 2.2 gm (0.01 mol) of sodium metaperiodate in 50 ml of water was added, and the mixture was refluxed for 4 hours. The reaction mixture was then poured into water, and the aqueous mixture was extracted with chloroform. The chloroform phase was dried, the chloroform was distilled off in vacuo, and the residue was recrystallized from ethanol. Yield: 2.9 gm (77% of theory); m.p. 223°-224°C.

reactant | 6-ethoxy-5-nitro-2-piperazino-4-thiomorpholino-pyrimidine | 0.01 mol, 3.6 gm | C(C)OC1=C(C(=NC(=N1)N1CCNCC1)N1CCSCC1)[N+](=O)[O-] | C14H22N6O3S
reactant | sodium metaperiodate | 0.01 mol, 2.2 gm | I(=O)(=O)(=O)[O-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | 6-Ethoxy-5-nitro-4-(1-oxido-thiomorpholino)-2-piperazino-pyrimidine | C(C)OC1=C(C(=NC(=N1)N1CCNCC1)N1CCS(CC1)=O)[N+](=O)[O-] | C14H22N6O4S
